US07241773B2
3-[4-(benzyloxy)phenoxy]quinuclidine
3-Hydroxy quinuclidine (Aldrich, 2.54 9, 20 mmol) was treated with 1-benzyloxy-4-iodo-benzene (Aldrich, 3.10 g, 10 mmol) according to the procedure of Example 14A. The title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.40) as an oil (1.30 g, yield, 42%). 1H NMR (MeOH-d4, 300 MHz) δ 1.45–1.56 (m, 1H), 1.64–1.80 (m, 2H), 2.00–2.10 (m, 1H), 2.15–2.24 (m, 1H), 2.76–3.10 (m, 5H), 3.40–3.46 (m, 1H), 4.48 (m, 1H), 5.10 (s, 2H), 6.73–6.96 (m 4H), 7.20–7.40 (m, 5H) ppm. MS (DCl/NH3) m/z 310 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 20 mmol | OC1CN2CCC1CC2 | C7H13NO
reactant | 1-benzyloxy-4-iodo-benzene | 10 mmol, 3.10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)I | C13H11IO
product | 3-[4-(benzyloxy)phenoxy]quinuclidine | C(C1=CC=CC=C1)OC1=CC=C(OC2CN3CCC2CC3)C=C1 | C20H23NO2
